US04009253
CMP can be prepared by reacting benzene with mesityl oxide to form 4-methyl-4-phenyl-2-pentanone which is then subjected to appropriate hydrogenation.

reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 4-methyl-4-phenyl-2-pentanone | CC(CC(C)=O)(C)C1=CC=CC=C1 | C12H16O
